US04230879
E-1-tri-n-Butylstannyl-4-dimethoxymethyl-4-trimethylsiloxy-1-octene
A mixture of 10.0 g. (36.7 mmoles) of 4-dimethoxymethyl-4-trimethylsiloxy-1-octyne, 12.82 g. (44 mmoles) of tri-n-butylstannyl hydride 100 mg. of azobisisobutyronitrile is heated to 140° C. under argon for 2 hours. The excess hydride is distilled off and the residue is purified by molecular distillation (bath temperature=170°-175° C., 0.2 mm.) to give 20.5 g. of the title compound.

reactant | 4-dimethoxymethyl-4-trimethylsiloxy-1-octyne | 36.7 mmoles | COC(C(CC#C)(CCCC)O[Si](C)(C)C)OC | C14H28O3Si
reactant | tri-n-butylstannyl hydride | 44 mmoles, 100 mg | C(CCC)[SnH](CCCC)CCCC
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | E-1-tri-n-Butylstannyl-4-dimethoxymethyl-4-trimethylsiloxy-1-octene | C(CCC)[Sn](\C=C\CC(CCCC)(O[Si](C)(C)C)C(OC)OC)(CCCC)CCCC | InChI=1S/C14H29O3Si.3C4H9.Sn/c1-8-10-12-14(11-9-2,13(15-3)16-4)17-18(5,6)7;3*1-3-4-2;/h2,9,13H,8,10-12H2,1,3-7H3;3*1,3-4H2,2H3;
